US07279580B2
2-(3-Bromo-8-fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol and 3-chloro-4-fluorobenzeneboronic acid were coupled together as described in Example 1 to give 2-[3-(3-chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]propan-2-ol as a white solid (7.10 g, 85%): δH (400 MHz, CDCl3) 1.74 (6H, s), 2.08 (1H, s), 7.21 (1H, t, J 7), 7.31 (1H, t, J 9), 7.40-7.44 (1H, m), 7.60 (1H, dd, J 7 and 2), 7.67 (1H, s), 8.01 (1H, d, J 7); m/z (ES+) 323 [MH+].

reactant | 2-(3-Bromo-8-fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol | BrC1=CN=C2N1C=CC(=C2F)C(C)(C)O | C10H10BrFN2O
reactant | 3-chloro-4-fluorobenzeneboronic acid | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
product | 2-[3-(3-chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]propan-2-ol | 7.10 g, 85% | ClC=1C=C(C=CC1F)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C16H13ClF2N2O
